US06313137B1
Synthesis of 2-(2-bromo-3-methylphenyl)acetic acid
2-(2-bromo-3-methylphenyl)acetonitril (8.0 g, 0.038 mol) was added to a mixture of water (60 ml) and sulfuric acid (50 ml) and the mixture was refluxed overnight. After cooling to room temperature water (200 ml) was added and the mixture was extracted twice with methylene chloride. The methylene chloride extracts were combined, washed twice with water, dried and evaporated under reduced pressure to give 7.9 g (90.8%) of the title compound.

reactant | 2-(2-bromo-3-methylphenyl)acetonitril | 0.038 mol, 8.0 g | BrC1=C(C=CC=C1C)CC#N | C9H8BrN
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 200 ml | O | H2O
reactant | water | 60 ml | O | H2O
product | 2-(2-bromo-3-methylphenyl)acetic acid | 7.9 g, 90.8% | BrC1=C(C=CC=C1C)CC(=O)O | C9H9BrO2
